* C:\Users\eduar\Desktop\jr\Instrumentação e Metrologia\Trabalho 2\Simulação LTSpice\ponteWheatstone_Termistor.asc
V1 N001 0 1.09
R1 N001 VoutA 2.35k
R2 VoutA 0 10k
R3 N001 VoutB 8.9k
R4 VoutB 0 {R4}
.param R4 12k*exp(3740*((1/(temp+273))- (1/298)))
.step param temp 0 50 1
.op
.backanno
.end
